US06274620B1
5-(3-Amino-phenyl)-thiophene-2-carboxylic acid methyl ester (N-2)
A mixture of compound N-1 (1.6 g, 7.20 mmol), 3-aminophenylboronic acid hemisulfate (1.60 g, 8.60 mmol), Palladium tetrakis triphenylphosphine (0.25 g, 0.216 mmol), sodium carbonate (40 mL, 2M, 82 mmol) in DMF (100 mL) was stirred for 2 hrs at 80° C. overnight. The solvent was removed and the crude reaction product was taken up in ethyl acetate (40 mL). The solution was washed with 5% solution of hydrochloric acid (30 mL), then with saturated sodium chloride solution (30 mL), dried over sodium sulfate and evaporated. Purification of the residue on silica gel (1:1 hexanes-EtOAc) gave 0.790 g of compound N-2 (48% yield).

reactant | 3-aminophenylboronic acid hemisulfate | 8.60 mmol, 1.60 g | S(=O)(=O)(O)O.NC=1C=C(C=CC1)B(O)O.NC=1C=C(C=CC1)B(O)O
reactant | sodium carbonate | 82 mmol, 2M, 40 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 5-(3-Amino-phenyl)-thiophene-2-carboxylic acid methyl ester | 0.790 g, 48% yield | COC(=O)C=1SC(=CC1)C1=CC(=CC=C1)N | C12H11NO2S
